US09278944B2
to a solution of tert-butyl (2R)-2-{[{1-[3-(3-{[(benzyloxy)carbonyl]amino}prop-1-yn-1-yl)-4-methoxyphenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate (2.82 g) in methanol (25 mL) was added 10% palladium on carbon (282 mg), and the mixture was stirred under hydrogen for 7 hours. An insoluble was filtered off, and then the filtrate was concentrated under reduced pressure, and the resulting residue was purified by NH-silica gel column chromatography (eluent: chloroform→chloroform/methanol=33/1) to give tert-butyl (2R)-2-{[{1-[3-(3-aminopropyl)-4-methoxyphenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate [Ex(295-4)] (1.49 g) as a colorless oil.

reactant | tert-butyl (2R)-2-{[{1-[3-(3-{[(benzyloxy)carbonyl]amino}prop-1-yn-1-yl)-4-methoxyphenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate | 2.82 g | C(C1=CC=CC=C1)OC(=O)NCC#CC=1C=C(C=CC1OC)C(C)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1 | C33H41N3O7
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 282 mg | [Pd] | Pd
product | tert-butyl (2R)-2-{[{1-[3-(3-aminopropyl)-4-methoxyphenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate | 1.49 g | NCCCC=1C=C(C=CC1OC)C(C)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1 | C25H39N3O5
